US08895733B2
Intermediate 282: 2-(2,2,2-Trifluoroethoxy)nicotinic acid
2-Fluoropyridine-3-carboxylic acid (200 mg, 1.42 mmol) was dissolved in 2,2,2-trifluoroethanol (2 mL) and potassium tert-butoxide (477 mg, 4.25 mmol) was added. The mixture was then heated to 90 C for 4 h. The mixture was diluted with water (4 mL), 2M HCl was added to bring the solution to pH 4 and the mixture was extracted with DCM (3×4 mL). 2M HCl was added to the aqueous layer to bring the solution to pH 3 and the mixture was extracted with DCM (4×5 mL). The combined organic extractions were dried over sodium sulfate and evaporated under vacuum to afford the title compound (100 mg, 32%). Method C HPLC-MS: MH+ requires m/z=222. Found: m/z=222, Rt=1.17 min (100%).

reactant | 2-Fluoropyridine-3-carboxylic acid | 1.42 mmol, 200 mg | FC1=NC=CC=C1C(=O)O | C6H4FNO2
reactant | potassium tert-butoxide | 4.25 mmol, 477 mg | CC(C)([O-])C.[K+]
reactant | 2,2,2-trifluoroethanol | 2 mL | FC(CO)(F)F | C2H3F3O
solvent | water | 4 mL | O | H2O
solvent | HCl | 2M | Cl | ClH
product | 2-(2,2,2-Trifluoroethoxy)nicotinic acid | 100 mg, 32% | FC(COC1=C(C(=O)O)C=CC=N1)(F)F | C8H6F3NO3
